US03974212
Step B: 2-Bromo-2',3'-dichloro-4'-methoxyisobutyrophenone
A stirred solution of 2',3'-dichloro-4'-methoxyisobutyrophenone (45 g., 0.183 mole) in acetic acid (150 ml.) is treated during one-half hour with bromine (30 g., 0.187 mole). The reaction mixture is stirred 10 minutes, then poured into ice water (600 ml.) containing sodium bisulfite (2 g.). The 2-bromo-2',3'-dichloro-4'-methoxyisobutyrophenone (IV) which separate (48 g.) melts at 72°-73°C. after recrystallization from hexane.

reactant | 2',3'-dichloro-4'-methoxyisobutyrophenone | 0.183 mole, 45 g | ClC1=C(C=CC(=C1Cl)OC)C(C(C)C)=O | C11H12Cl2O2
reactant | bromine | 0.187 mole, 30 g | BrBr | Br2
reactant | sodium bisulfite | 2 g | S([O-])(O)=O.[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-2',3'-dichloro-4'-methoxyisobutyrophenone | BrC(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)(C)C | C11H11BrCl2O2
